US06348474B1
Dimethyl 2-((2,4-dichlorobenzyl)amino)terephthalate
Dimethyl 2-aminoterephthalate (10.45 g), 2,4-dichlorobenzyl chloride (11.74 g), potassium iodide (8.33 g) and potassium carbonate (13.82 g) in a mixed solvent of toluene (50 ml) and water (30 ml) were heated under reflux for 20 hr. After cooling, toluene (50 ml) was added and the precipitated yellow crystals were collected by filtration. The crystals were washed with water and toluene and dried to give the objective compound (7.87 g). The mother liquor was concentrated and crystallized from ethyl acetate to give the second crystals (4.43 g).

reactant | Dimethyl 2-aminoterephthalate | 10.45 g | NC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C10H11NO4
reactant | 2,4-dichlorobenzyl chloride | 11.74 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | potassium iodide | 8.33 g | [I-].[K+]
reactant | potassium carbonate | 13.82 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 30 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Dimethyl 2-((2,4-dichlorobenzyl)amino)terephthalate | 7.87 g | ClC1=C(CNC2=C(C(=O)OC)C=CC(=C2)C(=O)OC)C=CC(=C1)Cl | C17H15Cl2NO4
